data/mechanisms/records/IMS8-EQ8.29a.json
{"mechanism_id": "IMS8-EQ8.29a", "species": [{"species_id": "cis_diacetate_mh", "mapped_smiles": "[CH2:2]1[CH:1]([O:7][C:8](=[O:9])[CH3:10])[CH2:6][CH2:5][CH2:4][CH:3]1[O:11][C:12](=[OH+:13])[CH3:14]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_dioxanylium", "mapped_smiles": "[C+:8]1([CH3:10])[O:7][CH:1]2[CH2:2][CH:3]([O:9]1)[CH2:4][CH2:5][CH2:6]2", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "acetic_acid_loss", "mapped_smiles": "[CH3:14][C:12](=[O:11])[OH:13]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cis_diacetate_mh"]}, {"state_id": "state_products", "species_ids": ["methyl_dioxanylium", "acetic_acid_loss"]}], "steps": [{"step_id": "step_anchimeric_displacement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "neighboring_group_participation", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [9, 3]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [3, 11]}, "target": {"type": "bond", "atom_maps": [11, 12]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [12, 13]}, "target": {"type": "atom", "atom_maps": [13]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_anchimeric_displacement", "support_type": "textbook_proposed", "locator": {"page": 159, "equation": "8.29", "figure": null, "panel": "a", "section": "8.3 Steric factors"}, "confidence": 0.75, "curator_note": "cis-1,3-cyclohexanediol diacetate protonated on one acetate carbonyl (arrow label 'id'). Neighbouring-group participation: the OTHER (neutral) acetate's carbonyl oxygen O9 displaces the protonated acetate from ring carbon C3, expelling it as neutral acetic acid and closing a 2-methyl-1,3-dioxan-2-ylium (acetoxonium) bridge across the cis-1,3-diaxial positions C1/C3. Book draws 2 arcs: (i) the neutral-acetate carbonyl pi (C8=O9) forming the new O9-C3 bond, and (ii) the ester oxygen O11 of the leaving acetate forming that fragment's new C12=O11 carbonyl. Move <3> (the protonated carbonyl pi C12=O13 collapsing to an O13 lone pair, which neutralises O13-H+ to the acetic-acid hydroxyl) is an implicit heterolytic step required for electron balance (not drawn on the page). The product cation is drawn with '+' on the central bridge carbon C8 (localised carbenium O-C+-O form chosen here; it is resonance-delocalised over O7/O9 as the two oxocarbenium forms)."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 201.1121, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_acetoxonium_141", "species_id": "methyl_dioxanylium", "step_id": "step_anchimeric_displacement", "observed_mz": 141.091, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
